US08877944B2
2-(1-Tert-butoxycarbonyl-piperidin-4-yl)-3-oxo-2,3-dihydro-1H-isoindole-4-carboxylic acid
To a solution of 3-oxo-2-piperidin-4-yl-2,3-dihydro-1H-isoindole-4-carboxylic acid (3.9 g, 13.2 mmol) in pyridine (15 mL) potassium carbonate (3.6 g, 26.5 mol) and methanol (40 mL) were successively added. Then di-tert-butyl dicarbonate (3.16 g, 14.5 mmol) was added and the reaction mixture was stirred at room temperature for 4 hours until HPLC analysis revealed the disappearance of the starting material. The solvent was removed under reduced pressure and the residue was dissolved in dichloromethane. The solution was washed twice with 5% potassium hydrogen sulfate and the organic phase was dried over anhydrous sodium sulfate and concentrated in vacuo. The obtained crude wad diluted with diethyl ether and decanted to obtain the title compound (3.7 g, 78%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 9H) 1.69 (qd, J=12.35, 4.58 Hz, 2H) 1.85 (dq, J=12.77, 2.40 Hz, 2H) 2.89 (br. s., 2H) 4.08 (d, J=12.69 Hz, 2H) 4.28 (tt, J=11.86, 3.95 Hz, 1H) 4.73 (s, 2H) 7.79-7.86 (m, 1H) 7.88-7.93 (m, 1H) 8.17 (dd, J=7.69, 0.85 Hz, 1H) 16.03 (br. s., 1H).

reactant | 3-oxo-2-piperidin-4-yl-2,3-dihydro-1H-isoindole-4-carboxylic acid | 13.2 mmol, 3.9 g | O=C1N(CC=2C=CC=C(C12)C(=O)O)C1CCNCC1 | C14H16N2O3
reactant | pyridine | 26.5 mol, 15 mL, 3.6 g | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 14.5 mmol, 3.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 40 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(1-Tert-butoxycarbonyl-piperidin-4-yl)-3-oxo-2,3-dihydro-1H-isoindole-4-carboxylic acid | 3.7 g, 78% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC=2C=CC=C(C2C1=O)C(=O)O | C19H24N2O5
